US07576215B2
[4-(1,1′-BIPHENYL-4-YL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PYRIDIN-2-YL)METHANONE
This compound was prepared using the procedure of Example 1, step 5 using (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone in place of [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-(phenyl)phenylboronic acid in place of phenyl boronic acid. MS (ESI) m/z 455 ([M+H]+); Anal. Calcd for C28H17F3N2O: C, 74.00; H, 3.77; N, 6.16. Found: C, 73.99; H, 3.81; N, 5.92.

reactant | (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1 | C16H8ClF3N2O
reactant | 4-(phenyl)phenylboronic acid | C1(=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO2
product | [4-(1,1′-BIPHENYL-4-YL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PYRIDIN-2-YL)METHANONE | C1(=CC=C(C=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1)C1=CC=CC=C1 | C28H17F3N2O
